US07696213B2
2-Amino-8-(trans-4-hydroxycyclohexyl)-6-(6-methoxypyridin-3-yl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one (Compound 152)
A flask containing 2-amino-6-bromo-8-(trans-4-hydroxycyclohexyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one (105 mg, 0.297 mmol), potassium carbonate (123 mg, 0.892 mmol), and 2-methoxy-5-pyridine boronic acid (52 mg, 0.34 mmol) was evacuated and back-filled with nitrogen (2×). A solution of 5:1 dimethylformade:water (1.8 mL) was bubbled with argon for 15 min then added to the flask followed by bis(tripehnylphosphine) palladium (II) chloride (10 mg, 0.015 mmol). The flask was fitted with a cold finger, evacuated and back filled with nitrogen (2×) then heated to 100° C. for 4 hr. The mixture was cooled overnight, diluted with methanol and chloroform then filtered through a glass fiber filter to filter out palladium. The filtrate was concentrated and the residue was purified by flash chromatography eluting with chloroform/7 N ammonia in methanol (0.5-6%) to afford the title compound (80, 71%).

reactant | 2-amino-6-bromo-8-(trans-4-hydroxycyclohexyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 0.297 mmol, 105 mg | NC=1N=C(C2=C(N1)N(C(C(=C2)Br)=O)[C@@H]2CC[C@H](CC2)O)C | C14H17BrN4O2
reactant | potassium carbonate | 0.892 mmol, 123 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methoxy-5-pyridine boronic acid | 0.34 mmol, 52 mg | COC1=NC=C(C=C1)B(O)O | C6H8BNO3
catalyst | palladium (II) chloride | 0.015 mmol, 10 mg | [Pd](Cl)Cl
product | 2-Amino-8-(trans-4-hydroxycyclohexyl)-6-(6-methoxypyridin-3-yl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 71% | NC=1N=C(C2=C(N1)N(C(C(=C2)C=2C=NC(=CC2)OC)=O)[C@@H]2CC[C@H](CC2)O)C | C20H23N5O3
